US07517873B2
To a suspension of 0.2463 g (0.000563 mole) of 4-[(9-cyclopentyl-6,7,8,9-tetrahydro-5-methyl-6-oxospiro[5H-pyrimido[4,5-b][1,4]diazepine-7,1′-cyclopropan]-2-yl)amino]-3-methoxybenzoic acid (I-53) in 15 mL of dimethylformamide was added 0.1222 g (0.00091 mole) of 1-hydroxybenzotriazole, 0.3307 g (0.00087 mole) of 1-[bis(dimethylamino)methylene]-1H-benzotriazolium 3-oxide hexafluorophosphate and 0.59 mL (0.00339 mole) of ethyldiisopropylamine. The mixture was stirred for 20 minutes and then 0.0980 g (0.00086 mole) of 4-amino-1-methylpiperidine was added. The mixture was stirred for an additional 2.5 hours and then concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed successively with 1 M sodium hydroxide, brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol (98:2-80:20) to give 0.166 g of 4-[(9-cyclopentyl-6,7,8,9-tetrahydro-5-methyl-6-oxospiro[5H-pyrimido[4,5-b][1,4]diazepine-7,1′-cyclopropan]-2-yl)amino]-3-methoxy-N-(1-methyl-4-piperidinyl)benzamide (I-54).

reactant | 4-[(9-cyclopentyl-6,7,8,9-tetrahydro-5-methyl-6-oxospiro[5H-pyrimido[4,5-b][1,4]diazepine-7,1′-cyclopropan]-2-yl)amino]-3-methoxybenzoic acid | 0.000563 mole, 0.2463 g | C1(CCCC1)N1C2=C(N(C(C3(CC3)C1)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C23H27N5O4
reactant | 1-hydroxybenzotriazole | 0.00091 mole, 0.1222 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[bis(dimethylamino)methylene]-1H-benzotriazolium 3-oxide hexafluorophosphate | 0.00087 mole, 0.3307 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=C1C=CC=C2)[O-])N(C)C
reactant | ethyldiisopropylamine | 0.00339 mole, 0.59 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-amino-1-methylpiperidine | 0.00086 mole, 0.0980 g | NC1CCN(CC1)C | C6H14N2
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-[(9-cyclopentyl-6,7,8,9-tetrahydro-5-methyl-6-oxospiro[5H-pyrimido[4,5-b][1,4]diazepine-7,1′-cyclopropan]-2-yl)amino]-3-methoxy-N-(1-methyl-4-piperidinyl)benzamide | 0.166 g | C1(CCCC1)N1C2=C(N(C(C3(CC3)C1)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C29H39N7O3
